US05872136
Step B: 3-Phenyl-6-hydroxymethylpyridine
To a solution of 3-phenyl-6-carboxypyridine (1.05 g, 5.27 mmol) in tetrahydrofuran (25 mL) at 0° C. was added 1.0M lithium aluminum hydride in tetrahydrofuran (10.0 mL, 10.0 mmol) over 10 minutes. The reaction was allowed to stir at ambient temperature for 6 hours, cooled to 0° C., and quenched by dropwise addition of water (0.50 mL), 4N aq. NaOH (0.50 mL), and water (1.5 mL). The reaction was filtered through a pad of Celite and the filtrate evaporated in vacuo. The residue was chromatographed (silica gel, 0-5% MeOH in CH2Cl2) to afford the title compound.

reactant | 3-phenyl-6-carboxypyridine | 5.27 mmol, 1.05 g | C1(=CC=CC=C1)C=1C=NC(=CC1)C(=O)O | C12H9NO2
reactant | lithium aluminum hydride | 1.0M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10.0 mmol, 10.0 mL | O1CCCC1 | C4H8O
product | 3-Phenyl-6-hydroxymethylpyridine | C1(=CC=CC=C1)C=1C=NC(=CC1)CO | C12H11NO
